US07192973B2
3-[3-(benzyloxycarbonylpiperidin-4-yl)acryloyl]-(4R,5S)-1,5 dimethyl-4-phenyl-2-imidazolidinone
1-Chloro-N,N,2-trimethyl-1-propenylamine (1.37 g) was added dropwise over 10 minutes to a solution of 3-(benzyloxycarbonylpiperidin-4-yl)propenoic acid (2.5 g) in THF (20 ml) and the mixture was stirred for 1.5 hours. Lithium bis(trimethylsilyl)amide (8.65 ml)was added to a solution of (4R,5S)-1,5dimethyl4-phenyl-2-imidazolidinone (1.64 g) in THF (20 ml) at −10° C. and the mixture was stirred at −10° C. for 10 minutes, allowed to warm to 0° C. and then cooled again to −10° C. The acid chloride solution (prepared above) was added dropwise and the mixture was allowed to warm to room temperature. The reaction mixture was poured into water (100 ml) and extracted with ethyl acetate (3×50 ml). The combined extracts were dried, evaporated to dryness and the residue was chromatographed on a Bond-Elut column eluted with an ethyl acetate/isohexane mixture (1:1) to give the title compound, yield 3.6 g. NMR (DMSOd6): 0.6 (d, 3H) 0.95 (d, 1H) 1.2 (m, 2H) 1.55 (m, 2H) 2.4 (m, 1H) 2.3 (s, 3H) 2.8 (m, 2H) 3.95 (m, 3H) 5 (s, 2H) 5.3 (d, 1H) 6.9 (m, 1H) 7.1 (m, 2H) 7.2–7.4 (m, 8H).

reactant | 1-Chloro-N,N,2-trimethyl-1-propenylamine | 1.37 g | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-(benzyloxycarbonylpiperidin-4-yl)propenoic acid | 2.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=CC(=O)O | C16H19NO4
reactant | Lithium bis(trimethylsilyl)amide | 8.65 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (4R,5S)-1,5dimethyl4-phenyl-2-imidazolidinone | 1.64 g | CN1C(N[C@@H]([C@@H]1C)C1=CC=CC=C1)=O | C11H14N2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 3-[3-(benzyloxycarbonylpiperidin-4-yl)acryloyl]-(4R,5S)-1,5 dimethyl-4-phenyl-2-imidazolidinone | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=CC(=O)N1C(N([C@H]([C@H]1C1=CC=CC=C1)C)C)=O | C27H31N3O4
